US08497371B2
2-(4-{[(3-methylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (13)
Pipemidic acid (54 mg, 0.177 mmol) and m-tolylisothiocyanate (20 μL, 0.148 mmol) were used. Purification on silica yielded compound 13 in Table 1, below (67 mg, 100%). 1H NMR (300 MHz, CDCl3) δ 9.32 (s, 1H), 8.68 (s, 1H), 7.34-7.32 (m, 1H), 7.05-6.94 (m, 3H), 4.33 (q, J=7.10 Hz, 2H), 4.24-3.87 (m, 8H), 2.35 (s, 3H), 1.49 (t, J=7.19 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.177 mmol, 54 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | m-tolylisothiocyanate | 0.148 mmol, 20 μL | C1(=CC(=CC=C1)N=C=S)C | C8H7NS
product | 2-(4-{[(3-methylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | CC=1C=C(C=CC1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C22H24N6O3S
